US06756359B2
To a −78° C. cooled stirred solution of oxalyl chloride (1 eq) in dichloromethane was added dimethyl sulfoxide (2 eq). After an additional 5 minutes, 2-Imidazo[4,5-b]pyridin-1-yl-2-methyl-propan-1-ol (1 eq) dissolved in dichloromethane was added to the cooled solution via cannula. The resulting heterogeneous mixture was stirred at −78° C. for 30 minutes, and triethylamine (5 eq) was added to produce a thick white slurry. After stirring at −78° C. for 15 minutes, the mixture was allowed to warm slowly to 0° C., diluted with dichloromethane, washed with NaCl(sat), dried over sodium sulfate, filtered and concentrated. Following this, to a solution of sodium hydride (1 eq) in THF was added methyl diethylphosphonoacetate (1 eq) at 0° C. The mixture was stirred at room temperature for 30 minutes and a solution of the latter concentrated residue dissolved in THF was added dropwise to the mixture. The solution was stirred for 1 hour at the same temperature and then poured into H2O, followed by an extraction with ethyl acetate. The organic layer was washed with NaCl(sat), dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash chromatography using a solvent gradient of 97% DCM, 3% MeOH and 0.1% TEA to yield 4-Imidazo[4,5-b]pyridin-1-yl-4-methyl-pent-2-enoic acid methyl ester (93%). MH+(246).

reactant | oxalyl chloride | 1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 2 eq | CS(=O)C | C2H6OS
reactant | 2-Imidazo[4,5-b]pyridin-1-yl-2-methyl-propan-1-ol | 1 eq | N1(C=NC2=NC=CC=C21)C(CO)(C)C | C10H13N3O
reactant | triethylamine | 5 eq | C(C)N(CC)CC | C6H15N
reactant | sodium hydride | 1 eq | [H-].[Na+]
reactant | methyl diethylphosphonoacetate | 1 eq | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 4-Imidazo[4,5-b]pyridin-1-yl-4-methyl-pent-2-enoic acid methyl ester | 93% | COC(C=CC(C)(C)N1C=NC2=NC=CC=C21)=O | C13H15N3O2
